US04711899
1-(4-benzoyloxyphenyl)-2-(4-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-1-piperidyl)-1-propanone
A mixture of 10.99 g (0.04 mole) of 2-chloro-1-(4-benzyloxyphenyl)-1-propanone, 10.05 g (0.04 mole) of 2-(4-fluorophenyl)-2-(4-piperidyl)-1,3-dioxolane, 5.52 g of potassium carbonate and 150 ml of acetonitrile is heated under reflux for 4 h. Working as described in Example 4a, an oil is isolated which is used as it is in the following stage.

reactant | 2-chloro-1-(4-benzyloxyphenyl)-1-propanone | 0.04 mole, 10.99 g | ClC(C(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C16H15ClO2
reactant | 2-(4-fluorophenyl)-2-(4-piperidyl)-1,3-dioxolane | 0.04 mole, 10.05 g | FC1=CC=C(C=C1)C1(OCCO1)C1CCNCC1 | C14H18FNO2
reactant | potassium carbonate | 5.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-(4-benzoyloxyphenyl)-2-(4-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-1-piperidyl)-1-propanone | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C(C(C)N1CCC(CC1)C1(OCCO1)C1=CC=C(C=C1)F)=O | C30H30FNO5
